US09193693B2
Step 2. 3-(isopropyl(methyl)amino)-2-(4-(trifluoromethoxy)phenyl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(isopropyl(methyl)amino)-2-(4-(trifluoromethoxy)phenyl)quinoxaline-6-carboxylate (120 mg, 0.29 mmol, 1.00 equiv) in methanol (15 mL), sodium hydroxide (57 mg, 1.43 mmol, 4.98 equiv), H2O (2 mL). The resulting solution was stirred for 2 hr at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum and diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with hydrogen chloride (2.5 mol/L). The resulting solids were collected by filtration. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-1): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (65% CH3CN up to 85% in 8 min, up to 100% in 2 min); Detector, UV 220 254 nm. This resulted in 70 mg (60%) of 3-(isopropyl(methyl)amino)-2-(4-(trifluoromethoxy)phenyl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(isopropyl(methyl)amino)-2-(4-(trifluoromethoxy)phenyl)quinoxaline-6-carboxylate | 0.29 mmol, 120 mg, 1.00 equiv | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)OC(F)(F)F)C | C21H20F3N3O3
reactant | sodium hydroxide | 1.43 mmol, 57 mg, 4.98 equiv | [OH-].[Na+]
reactant | H2O | 2 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | 3-(isopropyl(methyl)amino)-2-(4-(trifluoromethoxy)phenyl)quinoxaline-6-carboxylic acid | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)OC(F)(F)F)C | C20H18F3N3O3
